US07985764B2
A 500 mg portion of ethyl 2-ethyl-3-methyl-1H-indole-5-carboxylate was dissolved in 10 ml of N,N-dimethylformamide, and 113 mg of sodium hydride (55% dispersion in oil) was added under ice-cooling, followed by stirring at room temperature for 30 minutes. Then, 490 mg of 1-(bromomethyl)-4-fluorobenzene was added under ice-cooling, followed by stirring at room temperature for 2 hours. After evaporation of the solvent under a reduced pressure, the residue was diluted with ethyl acetate and washed with water and saturated brine. After drying the organic layer with anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:20 to 1:0) to obtain 587 mg of ethyl 2-ethyl-1-(4-fluorobenzyl)-3-methyl-1H-indole-5-carboxylate as a pale brown oily material.

reactant | ethyl 2-ethyl-3-methyl-1H-indole-5-carboxylate | C(C)C=1NC2=CC=C(C=C2C1C)C(=O)OCC | C14H17NO2
reactant | sodium hydride | 113 mg | [H-].[Na+]
reactant | 1-(bromomethyl)-4-fluorobenzene | 490 mg | BrCC1=CC=C(C=C1)F | C7H6BrF
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2-ethyl-1-(4-fluorobenzyl)-3-methyl-1H-indole-5-carboxylate | 587 mg | C(C)C=1N(C2=CC=C(C=C2C1C)C(=O)OCC)CC1=CC=C(C=C1)F | C21H22FNO2
